US06762320B2
b) 3-Fluoro-4-(3-fluoro-benzyloxy)-phenylamine
12.68 g (47.8 mmol) of 3-fluoro-4-(3-fluoro-benzyloxy)-nitrobenzene in 150 ml ethyl acetate is treated with 1.27 g of 5% platinum on charcoal and hydrogenated for 6 h at room temperature and normal pressure. The catalyst is filtered and the solution evaporated to yield 11.03 g (98%) of dark brown oil. MS: m/e=235.1 (M+).

reactant | 3-fluoro-4-(3-fluoro-benzyloxy)-nitrobenzene | 47.8 mmol, 12.68 g | FC=1C=C(C=CC1OCC1=CC(=CC=C1)F)[N+](=O)[O-] | C13H9F2NO3
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
catalyst | platinum on charcoal | 1.27 g | [Pt] | Pt
product | 3-Fluoro-4-(3-fluoro-benzyloxy)-phenylamine | 11.03 g, 98% | FC=1C=C(C=CC1OCC1=CC(=CC=C1)F)N | C13H11F2NO
